US06610707B1
Sodium tetrahydrofuran-3-ylmethanesulfonate (1.0 g) [see Preparation 10] was dissolved in dimethylformamide (0.05m)) and thionyl chloride (5.3 ml) was added. The reaction mixture was heated under reflux for 5 hours, cooled and toluene (10 ml) added. The solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and water, the organic layer was separated, washed with brine, dried over magnesium sulphate and the solvent removed under reduced pressure to afford tetrahydrofuran-3-ylmethanesulfonyl chloride (0.22 g) as a yellow oil. 1H-NMR (CDCl3) δ: 3.95 (1H, m), 3.90-3.60 (2H, m), 3.45 (1H, m), 3.00 (2H, m), 2.30 (1H, m), 2.10 (1H, m), 1.80 (1H, m).

reactant | Sodium tetrahydrofuran-3-ylmethanesulfonate | 1.0 g | O1CC(CC1)CS(=O)(=O)[O-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 5.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | tetrahydrofuran-3-ylmethanesulfonyl chloride | 0.22 g | O1CC(CC1)CS(=O)(=O)Cl | C5H9ClO3S
